US07683056B2
2-[3,5-bis(trifluoromethyl)phenyl]-N-(6′-chloro-4-methyl-3,4′-bipyridin-3′-yl)-N,2-dimethylpropanamide (D52)
2-[3,5-bis(trifluoromethyl)phenyl]-N-(6-chloro-4-iodo-3-pyridinyl)-N,2-dimethylpropanamide (400 mg, 0.726 mmol), 4-methylpyridine-3 boronic acid (130 mg, 0.944 mmol), sodium carbonate (0.8 mL, 2M), tetrakistriphenylphosphine palladium (7.8 mg, 0.00726 mmol) was added in dioxane (4 mL) and stirred under argon before heating in the microwave at 110° C. for 30 minutes., added more 4-methylpyridine-3 boronic acid (67.5 mg, 0.49 mmol) and tetrakistriphenylphosphinepalladium (7.8 mg, 0.00726 mmol) and heated at 110° C. for 30 minutes. therefore added more 4-methylpyridine-3 boronic acid (51 mg, 037 mmol), tetrakistriphenylphosphinepalladium (7.8 mg, 0.00726 mmol) and heated under microwave conditions at 110° C. for 30 minutes., therefore added 4-methylpyridine-3 boronic acid (47 mg, 0.34 mmol), tetrakistriphenylphosphinepalladium (7.8 mg, 0.00726 mmol) and heated at 110° C. for 30 minutes. Residue partitioned between EtOAc and Brine. Aqueous layer was extracted with EtOAc ×3. Combined extracts were dried and solvent evaporated. Residue purified on a 12+M horizon column eluting with Pet Ether to 1:1 EtOAc: Pet Ether. Unable to isolate clean fractions. Sample sent to be purified by Mass Directed Auto-Prep (MDAP) chromatography, white solid didn't dissolve was found to be desired material. This was combined with product isolated from the MDAP to afford the title compound as a white solid in an 83% yield.

reactant | 2-[3,5-bis(trifluoromethyl)phenyl]-N-(6-chloro-4-iodo-3-pyridinyl)-N,2-dimethylpropanamide | 0.726 mmol, 400 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1I)Cl)(C)C)(F)F | C18H14ClF6IN2O
reactant | 4-methylpyridine-3 boronic acid | 0.944 mmol, 130 mg | CC1=C(C=NC=C1)B(O)O | C6H8BNO2
reactant | sodium carbonate | 2M, 0.8 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methylpyridine-3 boronic acid | 0.49 mmol, 67.5 mg | CC1=C(C=NC=C1)B(O)O | C6H8BNO2
reactant | 4-methylpyridine-3 boronic acid | 51 mg | CC1=C(C=NC=C1)B(O)O | C6H8BNO2
reactant | 4-methylpyridine-3 boronic acid | 0.34 mmol, 47 mg | CC1=C(C=NC=C1)B(O)O | C6H8BNO2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakistriphenylphosphinepalladium | 0.00726 mmol, 7.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakistriphenylphosphinepalladium | 0.00726 mmol, 7.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakistriphenylphosphinepalladium | 0.00726 mmol, 7.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[3,5-bis(trifluoromethyl)phenyl]-N-(6′-chloro-4-methyl-3,4′-bipyridin-3′-yl)-N,2-dimethylpropanamide | 83% yield | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C=1C=NC=CC1C)Cl)(C)C)(F)F | C24H20ClF6N3O
